US05342941
To a suspension of sodium hydride in hexamethylphosphoric triamide (40 ml) is added a solution of 1-(3-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene in hexamethylphosphoramide (10 ml) under ice-cooling. The mixture is warmed to room temperature, and then stirred for 30 minutes. To the reaction solution is added neo-pentyl tosylate (3.67 g), and the mixture is reacted at 100° C. for 30 minutes. The mixture is allowed to cool, and thereto is added water, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried, and concentrated. The resulting residue is subjected to silica gel column chromatography (eluent; chloroform:acetone=5:1), and the desired fractions are concentrated to give 1-(3-pyridyl)-2-hydroxymethyl-3-neo-pentyloxymethyl-6,7-dimethoxynaphthalene (1.5 g) as an oily product.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-(3-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | N1=CC(=CC=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C19H19NO4
reactant | neo-pentyl tosylate | 3.67 g | S(=O)(=O)(OCC(C)(C)C)C1=CC=C(C)C=C1 | C12H18O3S
reactant | water | O | H2O
solvent | hexamethylphosphoric triamide | 40 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoramide | 10 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 1-(3-pyridyl)-2-hydroxymethyl-3-neo-pentyloxymethyl-6,7-dimethoxynaphthalene | 1.5 g | N1=CC(=CC=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)COCC(C)(C)C)CO | C24H29NO4
